US05932601
A mixture of 2-[2-[3-methoxy-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]ethyl]-1.3-dioxolane (2.73 g) and an aqueous solution of acetic acid (50%, 75 ml) was stirred for 3 hours at 80° C. The reaction mixture was concentrated under reduced pressure. The residue was poured into water and made alkaline with potassium carbonate, followed by extraction with ethyl acetate. The ethyl acetate layer was washed with water and dried (MgSO4), followed by distilling off the solvent to yield 3-[3-methoxy-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]propionaldehyde (2.09 g, 86%). The product was recrystallized from ethyl acetate-hexane to give colorless needles, m.p.85-86° C.

reactant | 2-[2-[3-methoxy-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]ethyl]-1.3-dioxolane | 2.73 g | COC=1C=C(C=CC1OCC=1N=C(OC1C)C1=CC=CC=C1)CCC1OCCO1 | C23H25NO5
solvent | acetic acid | 75 ml | C(C)(=O)O | C2H4O2
product | 3-[3-methoxy-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]propionaldehyde | 2.09 g, 86% | COC=1C=C(C=CC1OCC=1N=C(OC1C)C1=CC=CC=C1)CCC=O | C21H21NO4
